data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_348977_1,[C:1]1([C:5]([H:19])([H:20])[H:21])([H:11])[C:3]([H:14])([H:15])[N:7]([H:10])[C:8](=[C:9]([H:22])[H:23])[C:2]([H:12])([H:13])[N:6]1[C:4]([H:16])([H:17])[H:18]>>[C:1]([C:3]([N:7]([C:8]([C:2]([N:6]([C:4]([H:16])([H:17])[H:18])[H:19])([H:12])[H:13])=[C:9]([H:22])[H:23])[H:10])([H:14])[H:15])(=[C:5]([H:20])[H:21])[H:11],72.76803750001065
MR_290081_1,[C:1]1([H:10])([H:11])[N:7]([C:4]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])[H:9])[N:8]1[C:5](=[O:6])[H:12]>>[C:1]([N:7]=[C:4]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])(/[N:8]=[C:5](\[O:6][H:9])[H:12])([H:10])[H:11],29.689535000017884
MR_374856_1,[C:1]1([H:12])([H:13])[C:4]([N:3]([N:5]([H:9])[H:10])[H:8])([O:6][C:2]([H:14])([H:15])[H:16])[N:7]1[H:11]>>[C:1](/[C:4]([N:3]([N:5]([H:9])[H:10])[H:8])=[N:7]\[H:11])([O:6][C:2]([H:14])([H:15])[H:16])([H:12])[H:13],61.047592499996455
MR_77164_0,[C:1]1([O:6][C:3]([H:10])([H:11])[H:12])([H:8])[C:2]([C:4]([H:13])([H:14])[H:15])([H:9])[N:5]1[H:7]>>[C:1](\[C:2]([C:4]([H:13])([H:14])[H:15])([O:6][C:3]([H:10])([H:11])[H:12])[H:9])(=[N:5]/[H:7])[H:8],62.78514000003256
MR_102889_1,[C:1](/[C:3]([O:4][H:7])=[N:6]/[C:2]([H:11])([H:12])[H:13])([O:5][H:8])([H:9])[H:10]>>[C:1](=[C:3](/[O:4][H:7])[N:6]([C:2]([H:11])([H:12])[H:13])[H:10])(\[O:5][H:8])[H:9],62.02649249998615
MR_556811_0,[C:1](/[N:4]=[C:5](/[C:7]([C:3]([H:19])([H:20])[H:21])(/[C:6]([C:2]([H:16])([H:17])[H:18])=[N:9]\[H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([N:4](/[C:5](=[C:7](\[C:3]([H:19])([H:20])[H:21])[H:12])[O:8][H:10])/[C:6]([C:2]([H:16])([H:17])[H:18])=[N:9]\[H:11])([H:13])([H:14])[H:15],63.0882225000164
MR_467445_2,[C:1]([C:2](=[O:7])[H:11])(/[C:4](=[C:3](\[O:6][H:9])[H:12])[H:13])([O:5][H:8])[H:10]>>[C:1]1([O:5][H:8])([H:10])[C:2]([O:7][H:9])([H:11])[C:4]1([C:3](=[O:6])[H:12])[H:13],15.126515000046652
MR_62484_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:5]([C:4]([H:17])([H:18])[H:19])[H:10])[C:6]([O:7][H:9])=[O:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])[C@@:6]([N:5]([C:4]([H:17])([H:18])[H:19])[H:10])([O:7][H:9])[O:8]1,66.48236999997195
MR_601358_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:5]([C:3]([H:17])([H:18])[H:19])=[C:9]([H:22])[H:23])=[C:8]([H:20])[H:21])([N:6]([H:10])[H:11])[N:7]([H:12])[H:13]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[C:4]([C:5]([C:3]([H:17])([H:18])[H:19])=[C:9]([H:22])[H:23])([N:7]([H:12])[H:13])[C:8]1([H:20])[H:21],69.7654499999939
MR_22225_0,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:7])[C:5](=[C:6]([H:15])[H:16])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1=[C:5]([H:8])[C:6]([H:15])([H:16])[C:4]1([C:2]([H:12])([H:13])[H:14])[H:7])([H:9])([H:10])[H:11],44.87126999999646
MR_512958_1,[N:1](/[C:2]([N:5]([H:13])[H:14])=[N:7]\[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[C:6](=[O:8])[H:15]>>[N:1](=[C:2](\[N:5]([H:13])[H:14])[N:7]([N:4]([H:11])[H:12])[C:6](=[O:8])[H:15])\[N:3]([H:9])[H:10],44.330992500005095
MR_207593_0,[C:1]1(/[C:3](=[N:8]/[H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])/[C:2](=[N:7]/[H:10])[N:6]1[H:9]>>[C:1](\[C:2](/[C:3](=[N:8]/[H:11])[H:12])=[N:7][H:10])([C:4](=[C:5]([H:14])[H:15])[H:13])=[N:6]\[H:9],62.76129499998575
MR_672784_1,[C:1]([C:4]([N:2](/[C:3]([N:5]([H:9])[H:10])=[N:6]\[H:11])[H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:6](/[C:3](=[N:2]/[H:8])[N:5]([H:9])[H:10])[H:11])=[O:7])([H:12])([H:13])[H:14],43.466297500012416
MR_187276_0,[C:1](/[C:5](=[C:8](/[C:6]([C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:20])[H:21])[C:4]([H:19])([H:22])[H:23])[H:11])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C@@:5]1([O:9][H:10])[C:7]([C:3]([H:18])([H:20])[H:21])([C:4]([H:19])([H:22])[H:23])[C:6]([C:2]([H:15])([H:16])[H:17])=[C:8]1[H:11])([H:12])([H:13])[H:14],51.67085999998605
MR_54821_1,[C:1](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])(/[C:5](=[N:7]\[H:8])[H:11])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:4]([C:2]([H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:18])([H:11])[H:12])/[C:5]1=[N:7]/[H:8],64.94750499999483
MR_412148_0,[C:1]([C:3](/[C:2]([N:4]([H:8])[H:9])=[C:6](\[N:5]([H:11])[H:12])[H:13])=[N:7]/[H:10])([H:14])([H:15])[H:16]>>[C:1]([C:3]1=[C:2]([N:4]([H:8])[H:9])[C:6]([N:5]([H:11])[H:12])([H:13])[N:7]1[H:10])([H:14])([H:15])[H:16],57.78521999995789
MR_589780_0,[C:1]([N:3]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:5]([H:10])=[N:7][O:8]1)[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](/[N:7]=[O:8])[H:10])[O:6][H:9])([H:11])([H:12])[H:13],10.801157499981002
MR_256606_2,[C:1]([C:3]1([C:2]([N:4]([H:8])[H:9])=[O:6])[C:5]([H:10])=[N:7]1)([H:11])([H:12])[H:13]>>[C:1]([c:3]1[c:2]([N:4]([H:8])[H:9])[o:6][c:5]([H:10])[n:7]1)([H:11])([H:12])[H:13],53.637444999978925
